US04608375
A mixture of 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione (2.83 g), methyl iodide (3 ml), anhydrous potassium carbonate (4.2 g) and N,N-dimethylformamide (25 ml) was stirred for 8 hours at ambient temperature. After the reaction mixture was diluted with cold water, the resultant mixture was extracted twice with chloroform. The chloroform layer was washed with water twice, and with saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resultant oily residue was purified by subjecting to a column chromatography on silica gel (100 g) using chloroform for elution, to give 1-(3-bromopropyl)-3-methyl-2,4(1H,3H)-quinazolinedione (1.85 g) as a crystal.

reactant | 1-(3-bromopropyl)-2,4(1H,3H)-quinazolinedione | 2.83 g | BrCCCN1C(NC(C2=CC=CC=C12)=O)=O | C11H11BrN2O2
reactant | methyl iodide | 3 ml | CI | CH3I
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(3-bromopropyl)-3-methyl-2,4(1H,3H)-quinazolinedione | 1.85 g | BrCCCN1C(N(C(C2=CC=CC=C12)=O)C)=O | C12H13BrN2O2
